US05494908
6-Methoxy-3-(1-piperazinyl)-1,2-benzisoxazole hemihydrate
To a sealed tube was added 3-chloro-6-methoxy-1,2-benzisoxazole (3.0 g) and piperazine (6.0 g). The reaction was heated to 140° C. over 4 hours and then cooled to room temperature. The residue was dissolved in MeOH and further diluted with EtOAc (11). The precipatate was filtered and the filtrate dried over MgSO4 and concentrated in vacuo. Flash chromatography (silica gel) eluting with 30% MeOH/EtOAc provided a residue upon evaporation (3.6 g), m.p. 79°-80° C.

reactant | 3-chloro-6-methoxy-1,2-benzisoxazole | 3.0 g | ClC1=NOC2=C1C=CC(=C2)OC | C8H6ClNO2
reactant | piperazine | 6.0 g | N1CCNCC1 | C4H10N2
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Methoxy-3-(1-piperazinyl)-1,2-benzisoxazole hemihydrate | O.COC1=CC2=C(C(=NO2)N2CCNCC2)C=C1.COC1=CC2=C(C(=NO2)N2CCNCC2)C=C1 | InChI=1S/2C12H15N3O2.H2O/c2*1-16-9-2-3-10-11(8-9)17-14-12(10)15-6-4-13-5-7-15;/h2*2-3,8,13H,4-7H2,1H3;1H2
